US06495576B2
3-Ethoxy-4-(2-pyridinylamino)-3-cyclobutene-1,2-dione
A solution of 2-aminopyridine and 3,4-diethoxy-3-cyclobutene-1,2-dione in ethanol was processed as described in Example 1A to provide the title compound.

reactant | 2-aminopyridine | NC1=NC=CC=C1 | C5H6N2
reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
solvent | ethanol | C(C)O | C2H6O
product | 3-Ethoxy-4-(2-pyridinylamino)-3-cyclobutene-1,2-dione | C(C)OC=1C(C(C1NC1=NC=CC=C1)=O)=O | C11H10N2O3
